US05607928
To a suspension of 6-methoxy-2-(3-pyridyl)-1-tetralone (288 mg; 1.1 mmol) in CH2Cl2 (10 ml) was added, at 0° C. under argon, boron tribromide (215 μl; 2.2 mmol). It was left for 10 minutes and then, water, ethyl acetate and 2N NaHCO3 were added to bring the mixture to pH 9.5. The mixture was then acidified to pH 7-8 with 2N HCl and then extracted three times with ethyl acetate. The organic phase was washed with water and a saturated aqueous solution of NaCl , dried over MgSO4 filtered and evaporated. The residue was subjected to chromatography using a silica column, eluting with petroleum ether/ethyl acetate (1/9), to give 6-hydroxy-2-(3-pyridyl)-1-tetralone (208 mg; 79%) as a yellow solid.

reactant | 6-methoxy-2-(3-pyridyl)-1-tetralone | 1.1 mmol, 288 mg | COC=1C=C2CCC(C(C2=CC1)=O)C=1C=NC=CC1 | C16H15NO2
reactant | boron tribromide | 2.2 mmol, 215 μl | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | 2N | C(=O)(O)[O-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 6-hydroxy-2-(3-pyridyl)-1-tetralone | 208 mg, 79% | OC=1C=C2CCC(C(C2=CC1)=O)C=1C=NC=CC1 | C15H13NO2
